US07402585B2
A mixture of N′-(2-cyano-5-hydroxy-4-methoxyphenyl)-N,N-dimethylimidoformamide (21.9 g, 66 mmol), caesium carbonate (998 g, 300 mmol) and 1-bromo-3-chloropropane (11 ml, 110 mmol) in acetonitrile (300 ml) was heated at reflux for 1 hour. The reaction mixture was cooled and the solvent evaporated in vacuo. Water (200 ml) was added and this was extracted with dichloromethane (2×150 ml). The organic solution was washed with brine (50 ml) and dried over magnesium sulphate. The solvent was evaporated in vacuo and the residue triturated with diethyl ether. The solid was collected by suction filtration and dried in vacuo to yield N′-(5-(3-chloropropoxy)-2-cyano-4-methoxyphenyl)-N,N-dimethylimidoformamide (17.7 g, 91% yield) as a white solid:

reactant | N′-(2-cyano-5-hydroxy-4-methoxyphenyl)-N,N-dimethylimidoformamide | 66 mmol, 21.9 g | C(#N)C1=C(C=C(C(=C1)OC)O)N=CN(C)C | C11H13N3O2
reactant | caesium carbonate | 300 mmol, 998 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1-bromo-3-chloropropane | 110 mmol, 11 ml | BrCCCCl | C3H6BrCl
solvent | acetonitrile | 300 ml | C(C)#N | C2H3N
product | N′-(5-(3-chloropropoxy)-2-cyano-4-methoxyphenyl)-N,N-dimethylimidoformamide | 17.7 g, 91% yield | ClCCCOC=1C(=CC(=C(C1)N=CN(C)C)C#N)OC | C14H18ClN3O2
